US08193234B2
Triethylamine (1.1 eq), followed by ethyl 2-bromo-2,2-difluoroacetate (1.05 eq) were added to a stirring slurry of 4-(2-mercapto-1H-imidazol-1-yl)-1-naphthonitrile (prepared as described herein, 1 eq) in dichloromethane and stirring continued for 3 h. The mixture was washed with aqueous HCl solution (0.2M), 50% saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated. Hexanes were added and the mixture concentrated to provide ethyl 2-(1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)-2,2-difluoroacetate.

reactant | Triethylamine | 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromo-2,2-difluoroacetate | 1.05 eq | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | 4-(2-mercapto-1H-imidazol-1-yl)-1-naphthonitrile | SC=1N(C=CN1)C1=CC=C(C2=CC=CC=C12)C#N | C14H9N3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 2-(1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)-2,2-difluoroacetate | C(#N)C1=CC=C(C2=CC=CC=C12)N1C(=NC=C1)SC(C(=O)OCC)(F)F | C18H13F2N3O2S
